US04581452
A mixture of α-trifluoromethylacrylic acid (700 mg; 5.0 mmoles) and benzylurea (796 mg; 5.3 mmoles) in DMF (5 ml) was heated at 90° C. with stirring for 5 hours. After the reaction mixture was cooled to 0° C., a solution of DCC (1.13 g; 5.5 mmoles) in DMF (3 ml) was added dropwise. The mixture was stirred for 1 hour, and the precipitated solid was filtered off and washed with ethyl acetate. The solvents were evaporated under reduced pressure from the combined filtrates. The residue was purified by a column chromatography on silica gel (ethyl acetate:chloroform=1:1) to give 979 mg (yield: 72%) of 3-benzyl-5-trifluoromethyl-5,6-dihydrouracil. m.p.: 129.2°-129.7° C.

reactant | α-trifluoromethylacrylic acid | 5.0 mmoles, 700 mg | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | benzylurea | 5.3 mmoles, 796 mg | C(C1=CC=CC=C1)NC(=O)N | C8H10N2O
reactant | DCC | 5.5 mmoles, 1.13 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 3-benzyl-5-trifluoromethyl-5,6-dihydrouracil | 979 mg, yield: 72% | C(C1=CC=CC=C1)N1C(NCC(C1=O)C(F)(F)F)=O | C12H11F3N2O2
